US04413112
It is immaterial whether the polyisocyanate mixture has been prepared by the removal of 2,4'- and/or 4,4'-diisocyanatodiphenylmethane from the crude diphenylmethane diisocyanate by distillation or whether it has been obtained analogously by the removal of pure diaminodiphenylmethane from crude diaminodiphenylmethane followed by phosgenation of the resulting undistilled bottom fraction of polyarylamines.

reactant | 4,4'-diisocyanatodiphenylmethane | C1=CC(=CC=C1CC2=CC=C(C=C2)N=C=O)N=C=O | C15H10N2O2
reactant | diphenylmethane diisocyanate | [N-]=C=O.[N-]=C=O.C1(=CC=CC=C1)CC1=CC=CC=C1
product | diaminodiphenylmethane | NC(C1=CC=CC=C1)(C1=CC=CC=C1)N | C13H14N2
